US05591751
By using chloroacetyl chloride and 8-isopropylcarbostyril, there was obtained 6-chloroacetyl-8-isopropylcarbostyril as a light yellow powder having a melting point of 250° C. or less (decomposed).

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 8-isopropylcarbostyril | C(C)(C)C=1C=CC=C2C=CC(NC12)=O | C12H13NO
product | 6-chloroacetyl-8-isopropylcarbostyril | ClCC(=O)C=1C=C2C=CC(NC2=C(C1)C(C)C)=O | C14H14ClNO2
